US04408057
A stirred solution of 74.2 g (0.38 mole) of 3-(2-nitrophenyl)propionic acid and 53.6 g (0.45 mole) of thionyl chloride in 250 mL of methylene chloride was heated under reflux for 16 hours. The reaction mixture was concentrated under reduced pressure to give a residue, which was dissolved in 100 mL of methylene chloride. The solution was concentrated under reduced pressure, and the residue was subjected to high vacuum to give 3-(2-nitrophenyl)propionyl chloride as an oil.

reactant | 3-(2-nitrophenyl)propionic acid | 0.38 mole, 74.2 g | [N+](=O)([O-])C1=C(C=CC=C1)CCC(=O)O | C9H9NO4
reactant | thionyl chloride | 0.45 mole, 53.6 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-nitrophenyl)propionyl chloride | [N+](=O)([O-])C1=C(C=CC=C1)CCC(=O)Cl | C9H8ClNO3
